US05276192
To a 250-ml three-necked flask equipped with a thermometer, stirrer, condenser and nitrogen inlet were charged 66 g. of nonylphenol and 30 g. of 2-methyl-2-oxazoline. The mixture was heated to 200° C. for six hours. About 80 g. of 85% phosphoric acid and 20 g. of water were then added. The mixture was heated to reflux for eight hours. The resulting reaction mixture was neutralized with sodium hydroxide solution. The resulting product was washed with water and then dried. 2-Nonylphenoxyethanamine was obtained in quantitative yield and the product purity by NMR spectroscopy analysis was found to be about 98%.

reactant | nonylphenol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | 2-methyl-2-oxazoline | CC=1OCCN1 | C4H7NO
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Nonylphenoxyethanamine | quantitative yield | C(CCCCCCCC)C1=C(OC(C)N)C=CC=C1 | C17H29NO
